US07915268B2
2-(Allyloxymethyl)-1-fluoro-3-iodobenzene.
To a solution of (2-fluoro-6-iodophenyl)methanol (10 mmol) in 50 mL of THF was added NaH (12 mmol) in small portions at room temperature. After the addition, allylbromide (12 mmol) was added slowly via syringe. The reaction mixture was stirred 16 hours at room temperature. The resulting white heterogeneous mixture was quenched with water and then diluted with 100 mL of Et2O, followed by washing with water and brine. The organic layer was dried over MgSO4 and then concentrated to dryness in vacuo to offer 2.8 g of the title compound.

reactant | (2-fluoro-6-iodophenyl)methanol | 10 mmol | FC1=C(C(=CC=C1)I)CO | C7H6FIO
reactant | NaH | 12 mmol | [H-].[Na+]
reactant | allylbromide | 12 mmol | C(C=C)Br | C3H5Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(Allyloxymethyl)-1-fluoro-3-iodobenzene | C(C=C)OCC1=C(C=CC=C1I)F | C10H10FIO
